* Extracted by KLayout with SG13G2 LVS runset on : 17/03/2026 12:18

.SUBCKT digital_pulse_ina_temp_TOP GND IN PHI2 OTA_VOP OTA_VOM VINP PHI4 VINM
+ AVDD B|OUT PHI1 OUT OUT$1 DVDD VCM_REF CLK VICM_REF out A OUT$2 BV PHI3
+ VINM$1 VOM VINP$1 VOP
M$1 GND GND GND GND sg13_hv_nmos L=2u W=8u AS=2.72p AD=2.72p PS=18.72u PD=18.72u
M$2 OTA_VOM \$2 GND GND sg13_hv_nmos L=2u W=4u AS=1.36p AD=1.36p PS=9.36u
+ PD=9.36u
M$3 GND \$2 OTA_VOP GND sg13_hv_nmos L=2u W=4u AS=1.36p AD=1.36p PS=9.36u
+ PD=9.36u
M$9 GND IN \$18 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$10 \$18 \$19 \$20 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$11 GND \$20 PHI4 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$12 \$33 \$33 GND GND sg13_hv_nmos L=0.5u W=1u AS=0.34p AD=0.34p PS=2.68u
+ PD=2.68u
M$13 GND \$33 \$2 GND sg13_hv_nmos L=0.5u W=1u AS=0.34p AD=0.34p PS=2.68u
+ PD=2.68u
M$14 GND B|OUT IN GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$15 IN PHI1 GND GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$16 GND IN \$11 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$17 GND \$42 OUT GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$18 GND OUT PHI2 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$19 GND PHI2 \$12 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$20 GND \$11 \$42 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$21 GND \$12 \$44 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$22 GND \$44 OUT$1 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$23 GND OUT$1 \$19 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$24 GND CLK B|OUT GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$25 GND PHI2 out GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$26 out CLK GND GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$27 GND out \$83 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$28 GND \$104 PHI1 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$29 GND out \$88 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$30 \$88 A \$90 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$31 GND \$90 PHI3 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$32 GND \$83 \$103 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$33 GND \$103 \$104 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$34 GND PHI1 \$84 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$35 GND \$84 \$105 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$36 GND \$105 OUT$2 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$37 GND OUT$2 A GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$38 VINM$1 PHI1 \$136 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$39 \$148 PHI3 \$137 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$40 \$131 PHI3 VINM GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$41 VINM PHI1 \$135 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$42 VINP PHI1 \$149 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$43 \$132 PHI1 OTA_VOM GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$44 \$133 PHI1 OTA_VOP GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$45 OTA_VOP PHI1 VOM GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$46 \$136 PHI3 \$138 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$47 \$130 PHI3 VINP GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$48 VINP$1 PHI1 \$148 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$49 VINM PHI2 \$149 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$50 \$133 PHI2 OTA_VOM GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$51 OTA_VOM PHI1 VOP GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$52 \$148 PHI4 \$138 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$53 \$131 PHI4 VINP GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$54 VINM$1 PHI2 \$148 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$55 VINP PHI2 \$135 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$56 \$132 PHI2 OTA_VOP GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$57 OTA_VOP PHI2 VOP GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$58 \$136 PHI4 \$137 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$59 \$130 PHI4 VINM GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$60 VINP$1 PHI2 \$136 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$61 OTA_VOM PHI2 VOM GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$62 AVDD AVDD AVDD AVDD sg13_hv_pmos L=0.4u W=18u AS=6.12p AD=6.12p PS=38.72u
+ PD=38.72u
M$63 OTA_VOP VINP \$27 AVDD sg13_hv_pmos L=1u W=9u AS=3.06p AD=3.06p PS=19.36u
+ PD=19.36u
M$64 \$27 VINM OTA_VOM AVDD sg13_hv_pmos L=1u W=9u AS=3.06p AD=3.06p PS=19.36u
+ PD=19.36u
M$66 DVDD IN \$20 DVDD sg13_hv_pmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$67 \$20 \$19 DVDD DVDD sg13_hv_pmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$68 DVDD \$20 PHI4 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$69 \$50 VCM_REF \$2 AVDD sg13_hv_pmos L=0.5u W=4.5u AS=1.53p AD=1.53p
+ PS=10.36u PD=10.36u
M$70 IN B|OUT \$48 DVDD sg13_hv_pmos L=1.8u W=1.2u AS=0.408p AD=0.408p PS=3.08u
+ PD=3.08u
M$71 \$48 PHI1 DVDD DVDD sg13_hv_pmos L=1.8u W=1.2u AS=0.408p AD=0.408p
+ PS=3.08u PD=3.08u
M$72 \$50 OTA_VOM \$33 AVDD sg13_hv_pmos L=0.5u W=2.25u AS=0.765p AD=0.765p
+ PS=5.18u PD=5.18u
M$73 \$33 OTA_VOP \$50 AVDD sg13_hv_pmos L=0.5u W=2.25u AS=0.765p AD=0.765p
+ PS=5.18u PD=5.18u
M$75 DVDD IN \$11 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$76 DVDD \$11 \$42 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$77 DVDD \$42 OUT DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$78 DVDD OUT PHI2 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$79 DVDD PHI2 \$12 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$80 DVDD OUT$1 \$19 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$81 DVDD CLK B|OUT DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$82 DVDD \$12 \$44 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$83 DVDD \$44 OUT$1 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$84 VICM_REF VINM VINM AVDD sg13_hv_pmos L=1u W=50u AS=11p AD=11p PS=62.2u
+ PD=62.2u
M$93 VINP VINP VICM_REF AVDD sg13_hv_pmos L=1u W=50u AS=11p AD=11p PS=62.2u
+ PD=62.2u
M$98 out PHI2 \$85 DVDD sg13_hv_pmos L=1.8u W=1.2u AS=0.408p AD=0.408p PS=3.08u
+ PD=3.08u
M$99 \$85 CLK DVDD DVDD sg13_hv_pmos L=1.8u W=1.2u AS=0.408p AD=0.408p PS=3.08u
+ PD=3.08u
M$100 DVDD out \$90 DVDD sg13_hv_pmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$101 \$90 A DVDD DVDD sg13_hv_pmos L=0.45u W=0.3u AS=0.102p AD=0.102p PS=1.28u
+ PD=1.28u
M$102 DVDD \$90 PHI3 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$103 \$27 BV AVDD AVDD sg13_hv_pmos L=1u W=16u AS=5.44p AD=5.44p PS=34.72u
+ PD=34.72u
M$107 DVDD out \$83 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$108 DVDD \$83 \$103 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$109 DVDD \$103 \$104 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$110 DVDD \$104 PHI1 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$111 DVDD PHI1 \$84 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$112 DVDD \$84 \$105 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$113 DVDD \$105 OUT$2 DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p
+ PS=1.88u PD=1.88u
M$114 DVDD OUT$2 A DVDD sg13_hv_pmos L=0.9u W=0.6u AS=0.204p AD=0.204p PS=1.88u
+ PD=1.88u
M$115 BV BV AVDD AVDD sg13_hv_pmos L=1u W=4u AS=1.36p AD=1.36p PS=8.68u PD=8.68u
M$116 \$50 BV AVDD AVDD sg13_hv_pmos L=1u W=16u AS=5.44p AD=5.44p PS=34.72u
+ PD=34.72u
C$120 \$11 GND cap_cmim w=7u l=7u A=49p P=28u m=1
C$121 \$12 GND cap_cmim w=7u l=7u A=49p P=28u m=1
C$122 \$83 GND cap_cmim w=7u l=7u A=49p P=28u m=1
C$123 \$133 \$149 cap_cmim w=5.7u l=5.7u A=32.49p P=22.8u m=2
C$124 \$132 \$135 cap_cmim w=5.7u l=5.7u A=32.49p P=22.8u m=2
C$125 \$2 GND cap_cmim w=50u l=14u A=700p P=128u m=1
C$126 \$130 \$137 cap_cmim w=26u l=12.8u A=332.8p P=77.6u m=2
C$130 \$84 GND cap_cmim w=7u l=7u A=49p P=28u m=1
C$131 \$131 \$138 cap_cmim w=26u l=12.8u A=332.8p P=77.6u m=2
.ENDS digital_pulse_ina_temp_TOP
